US07943774B2
tert-Butyl 4-{4-[(Z)-2-(naphthalen-1-yl)ethenyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate (IV-3, 1.5 g) is dissolved in 90 ml of methanol and, at 30° C., hydrogenated under a hydrogen pressure of 10 bar using 10% Pd/C as catalyst. Removal of the catalyst by filtration and removal of the solvent under reduced pressure gives tert-butyl 4-{4-[2-(naphthalen-1-yl)ethyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate (1.48 g) as a colourless oil.

reactant | tert-Butyl 4-{4-[(Z)-2-(naphthalen-1-yl)ethenyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate | 1.5 g | C1(=CC=CC2=CC=CC=C12)\C=C/C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C25H28N2O2S
solvent | methanol | 90 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl 4-{4-[2-(naphthalen-1-yl)ethyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate | 1.48 g | C1(=CC=CC2=CC=CC=C12)CCC=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C25H30N2O2S
